US06479670B1
3.1. Preparation of 4-(5-methoxymethyl-5-methyl-2,3,4,5-tetrahydrobenzo[b]thiepin-8-ylethynyl)-benzoic acid
To 478 mg (1.59 mmol) of 8-bromo-5-methoxymethyl-5-methyl-2,3,4,5-tetrahydrobenzo[b]thiepine, dissolved in 2.9 ml of piperidine, was added successively 4.8 mg (0.02 eq.) of CuI, 7.0 mg (0.02 eq.) of Ph3P, and 24.1 mg (0.01 eq.) of (Ph3P)4Pd. After heating to 80° C., a solution of 508 mg (2 eq.) of 4-ethynyl-benzoic acid methyl ester in 2.8 ml of piperidine was added within 2 h via dropping funnel and then kept at this temperature for 3 additional h. After cooling, the reaction mixture was poured onto crushed ice/ HCl diluted, extracted with diethylether, the organic phase was washed with water, dried over magnesium sulfate, filtrated and evaporated to dryness. Flash chromatography (SiO2, hexane/ethylacetate 95/5) yielded 270 mg of the title compound as colorless oil.

reactant | 8-bromo-5-methoxymethyl-5-methyl-2,3,4,5-tetrahydrobenzo[b]thiepine | 1.59 mmol, 478 mg | BrC=1C=CC2=C(SCCCC2(C)COC)C1 | C13H17BrOS
reactant | 4-ethynyl-benzoic acid methyl ester | 508 mg, 2 eq. | COC(C1=CC=C(C=C1)C#C)=O | C10H8O2
solvent | piperidine | 2.9 ml | N1CCCCC1 | C5H11N
solvent | piperidine | 2.8 ml | N1CCCCC1 | C5H11N
catalyst | CuI | 4.8 mg, 0.02 eq. | [Cu]I
catalyst | (Ph3P)4Pd | 24.1 mg, 0.01 eq. | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | Ph3P | 7.0 mg, 0.02 eq. | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
product | 4-(5-methoxymethyl-5-methyl-2,3,4,5-tetrahydrobenzo[b]thiepin-8-ylethynyl)-benzoic acid | 270 mg | COCC1(C2=C(SCCC1)C=C(C=C2)C#CC2=CC=C(C(=O)O)C=C2)C | C22H22O3S
